US04032676
N-(2,3,4,5,6-pentahydroxy-hexyl)-DL-threonine
The starting materials were D-glucose and DL-threonine. The reductive amination was carried out using Raney nickel or palladium/activated carbon (10%) and yielded a product having a melting point of 219° C. (decomposition) and a RF -value of 0.67 (determined on DC-finished plates of silica gel G (Merck) with a transporting fluid made up of 75 parts by volume of methanol and 25 parts by volume of water).

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | DL-threonine | NC(C(O)C)C(=O)O | C4H9NO3
reactant | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
solvent | water | O | H2O
product | N-(2,3,4,5,6-pentahydroxy-hexyl)-DL-threonine | OC(CNC(C(O)C)C(=O)O)C(C(C(CO)O)O)O | C10H21NO8
